US05409930
A solution of 2.00 g (6.64 mmol) of 4-trimethylstannylveratrole, 2.49 g (13.2 mmol) of 2-methoxy-5-bromopyridine and 370 mg (0.332 mmol) of Pd (PPh3)4 in 30 mL of dry dimethylformamide is flushed thoroughly with nitrogen and heated to 90° C. for 12 hours. The reaction mixture is partitioned between ethyl acetate (150 mL) and water (100 mL). The aqueous layer is back extracted with ethyl acetate (100 mL) and the combined organics are washed with brine (75 mL), dried (MgSO4) and evaporated to give a crude yellow oil. The oil is chromatographed on silica gel (eluting with 95:5 hexane/ethyl acetate and then with 9:1 hexane/ethyl acetate) which gives 5-(3,4-dimethoxyphenyl)-2-methoxypyridine (m.p 83°-84° C.)

reactant | 4-trimethylstannylveratrole | 6.64 mmol, 2.00 g | C[Sn](C=1C=C(C(=CC1)OC)OC)(C)C
reactant | 2-methoxy-5-bromopyridine | 13.2 mmol, 2.49 g | COC1=NC=C(C=C1)Br | C6H6BrNO
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
catalyst | Pd (PPh3)4 | 0.332 mmol, 370 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3,4-dimethoxyphenyl)-2-methoxypyridine | COC=1C=C(C=CC1OC)C=1C=CC(=NC1)OC | C14H15NO3
